US06103732
Methyl 2-(4-methyl-2-quinolinyloxy)-3-methoxy-3,3-diphenyl-propionate
5.7 g (20 mmol) of Methyl 2-hydroxy-3-methoxy-3,3-diphenyl-propionate were dissolved in 90 ml of dimethylformamide, and 0.98 g (22 mmol) of sodium hydride (55% in oil) was added. After stirring for 15 minutes, 3.9 g (22 mmol) of 2-chloro-4-methylquinoline were added. The dark red solution was stirred at room temperature overnight, then cautiously hydrolyzed with 20 ml of water and subsequently extracted with ethyl acetate. The organic phase was washed with water, and dried over magnesium sulfate, and the solvent was removed by distillation. The residue (8.1 g) was then chromatographed on silica gel, resulting in 2.6 g of impure product as oil.

reactant | Methyl 2-hydroxy-3-methoxy-3,3-diphenyl-propionate | 20 mmol, 5.7 g | OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C17H18O4
reactant | sodium hydride | 22 mmol, 0.98 g | [H-].[Na+]
reactant | 2-chloro-4-methylquinoline | 22 mmol, 3.9 g | ClC1=NC2=CC=CC=C2C(=C1)C | C10H8ClN
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(4-methyl-2-quinolinyloxy)-3-methoxy-3,3-diphenyl-propionate | 2.6 g | CC1=CC(=NC2=CC=CC=C12)OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C27H25NO4
